### PR TITLE
[Merged by Bors] - feat(Topology/Sets): define open covers

### PR DESCRIPTION
**Pull request by loefflerd**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CBirkbeck** [comment]
Thanks for doing all this! I've had a look at the changes and it all LGTM. In case anyone is interested the zulip discussion of for this is [here](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Definition.20of.20a.20covering.20of.20a.20topological.20space.3F)

File: Mathlib/Topology/Sets/OpenCover.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+
+We define `IsOpenCover` as a predicate on indexed families of open sets in a topological space `X`,
+asserting that their union is `X`. This is an example of a declaration whose name is actually
+longer than its content; but giving it a name serves as a way of standardizing API.
+-/
+
+open Set Topology
+
+namespace TopologicalSpace
+
```
Comment (j-loreaux) [inline Mathlib/Topology/Sets/OpenCover.lean:20]: I think we actually want to place this in the `Topology` namespace. That's how, for example, [Topology.IsInducing](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Induced.html#Topology.IsInducing) are done. There was a Zulip thread somewhere about switch namespaced things from `TopologicalSpace` to `Topology` (but keeping the name of the class as `TopoogicalSpace`), but I can't seem to find it now.

File: Mathlib/Topology/Sets/OpenCover.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+/-- An indexed family of open sets whose union is `X`. -/
+def IsOpenCover {ι X : Type*} [TopologicalSpace X] (u : ι → Opens X) : Prop :=
+  iSup u = ⊤
```
Comment (j-loreaux) [inline Mathlib/Topology/Sets/OpenCover.lean:23]: It's unclear to me whether we want this as a `Prop` on `u : ι → Opens X` or a structure on `u : ι → Set X`. I'm not saying the `Opens` version is bad, only opening the discussion.

If we keep the `Opens` version, I think it at least makes sense to have a constructor with `u : ι → Set X`.
```suggestion
def IsOpenCover {ι X : Type*} [TopologicalSpace X] (u : ι → Opens X) : Prop :=
  iSup u = ⊤
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

File: Mathlib/AlgebraicGeometry/Morphisms/Immersion.lean [hunk 3]
```diff
@@ -91,19 +91,19 @@ instance : IsLocalAtTarget @IsImmersion := by
   apply (config := { allowSynthFailures := true }) topologically_isLocalAtTarget'
   · refine { precomp := ?_, postcomp := ?_ }
     · intro X Y Z i hi f hf
-      replace hi : IsIso i := hi
+      change IsIso i at hi
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/AlgebraicGeometry/Morphisms/Immersion.lean:94]: Are you asking why the line is being changed (answer : purely cosmetic), or why the line is needed at all? If you are asking the latter, then the answer is that something fails a few lines later without it, for reasons I don't claim to understand. Perhaps it would be better just not to touch this at all.

File: Mathlib/Topology/Sets/OpenCover.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Topology/Sets/OpenCover.lean:20]: `Opens` is in the `TopologicalSpace` namespace, though, and I think we should be consistent with that.

(To me, it somehow feels like `IsInducing` is saying something _about the topology itself_, while `IsOpenCover` is saying something about some other object which _depends on_ the topology.)

File: Mathlib/Topology/Sets/OpenCover.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Topology/Sets/OpenCover.lean:23]: I don't have a strong opinion on this one; I was mostly just following the existing code. What sort of syntax do you have in mind for a constructor? Maybe something like
```
lemma of_sets {v : ι → Set X} (h_open : ∀ i, IsOpen (v i)) (h_iUnion : ⋃ i, v i = univ) :
    IsOpenCover (fun i ↦ ⟨v i, h_open i⟩) := by
  simp [IsOpenCover, h_iUnion]
```

File: Mathlib/Topology/Sober.lean [hunk 4]
```diff
@@ -210,31 +211,32 @@ theorem Topology.IsOpenEmbedding.quasiSober {f : α → β} (hf : IsOpenEmbeddin
...
+      H.isGenericPoint_genericPoint_closure.def]
+    refine (subset_closure_inter_of_isPreirreducible_of_isOpen h (U i).isOpen ⟨x, ⟨hx, hi⟩⟩).trans
+      (closure_mono ?_)
+    simpa only [inter_comm t, ← Subtype.image_preimage_coe] using Set.image_subset _ subset_closure
+
+lemma TopologicalSpace.IsOpenCover.quasiSober {ι : Type*} {U : ι → Opens α}
+    (hU : TopologicalSpace.IsOpenCover U) [∀ i, QuasiSober (U i)] : QuasiSober α :=
+  hU.quasiSober_iff_forall.mpr ‹_›
+
 /-- A space is quasi sober if it can be covered by open quasi sober subsets. -/
```
Comment (jcommelin) [inline Mathlib/Topology/Sober.lean:235]:
```suggestion
/-- A space is quasi-sober if it can be covered by open quasi-sober subsets. -/
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Topology/Sets/OpenCover.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Topology/Sets/OpenCover.lean:20]: (I'm going to close this sub-conversation as "resolved" with the code as it stands, but if there's a future PR that moves `Opens` etc to the `Topology` namespace, I certainly have no objection to this getting moved as well.)
